US04215123
A stirred mixture of 37.1 g. (0.2 mole) of methyl 2-chloro-6-methyl-nicotinate, 11.8 g. (0.02 mole) of propylamine and 21.2 g. (0.02 mole) of sodium carbonate in 200 ml. of ethanol was heated under reflux for 5 hours. The mixture was filtered and the filtrate was evaporated in a rotary evaporator. The residue was triturated with 200 ml. of water and was extracted with 100 ml. of diethyl ether. The ether layer was dried over magnesium sulfate, filtered and was evaporated to give 31 g. of an oil. A small amount of this oil was dissolved in diethyl ether and was acidified with an etheral hydrochloric acid solution. On cooling, the oil which separated crystallized to yield 6-methyl-2-propylaminonicotinic acid methyl ester, hydrochloride. The solid was collected and was recrystallized from ethyl acetate to give the analytical sample, m.p. 113°-15° C.

reactant | methyl 2-chloro-6-methyl-nicotinate | 0.2 mole | ClC1=C(C(=O)OC)C=CC(=N1)C | C8H8ClNO2
reactant | propylamine | 0.02 mole | C(CC)N | C3H9N
reactant | sodium carbonate | 0.02 mole | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
product | 6-methyl-2-propylaminonicotinic acid methyl ester, hydrochloride | Cl.COC(C1=C(N=C(C=C1)C)NCCC)=O | InChI=1S/C11H16N2O2.ClH/c1-4-7-12-10-9(11(14)15-3)6-5-8(2)13-10;/h5-6H,4,7H2,1-3H3,(H,12,13);1H
